* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 9
R2 N003 0 390k
R3 N001 N002 560
R4 N001 N003 1.5
R5 N002 0 68k
R1 N003 N002 25k

.end